US05145936
The monomer 4,4,-bis(1-naphthoxy)octafluorobiphenyl (8FNE) was prepared by the following procedure. A 100 mL round bottom flask was charged with decafluorobiphenyl (3.01 g, 0.0090 mole), 1-naphthol (2.60 g, 0.0181 mole), potassium carbonate (2.95 g, 0.0218 mole), and DMAc (40 g). The mixture was heated with stirring at about 140 ° C. for 2 hr and then cooled to room temperature, filtered, and poured into toluene (100 mL). The toluene solution was washed with 5% sodium hydroxide (50 mL) and then twice with deionized water (2×100 mL). After drying with magnesium sulfate and filtering, it was concentrated by rotary evaporation to yield a red solid. The solid was recrystallized from DMAc/water, filtered, and dried to yield 8FNE (3.9 g, 78.8% yield; m.p. 189-191 ° C.; GC/MS m+ /e 582).

reactant | decafluorobiphenyl | 0.0090 mole, 3.01 g | FC1=C(C(=C(C(=C1C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C12F10
reactant | 1-naphthol | 0.0181 mole, 2.60 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium carbonate | 0.0218 mole, 2.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMAc | 40 g | CC(=O)N(C)C | C4H9NO
product | 4,4,-bis(1-naphthoxy)octafluorobiphenyl | 78.8% yield | C1(=CC=CC2=CC=CC=C12)OC1(C(C(=C(C(=C1F)F)C1=C(C(=C(C(=C1)F)F)F)F)F)F)OC1=CC=CC2=CC=CC=C12 | C32H16F8O2
